Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___ Decongestant
 
Attending: ___
 
Chief Complaint:
Exertional chest pain
 
Major Surgical or Invasive Procedure:
Coronary angiogram on ___

 
History of Present Illness:
___ ___ only, patient of Dr. ___, with premature
3v CAD (LAD 30% ISR, Cx 40-50% stenosis, ostial RCA stent ___
ISR), HTN, HLD, DM2 presenting as transfer from ___ with
chest pain c/f unstable angina. 

Discussed with patient and her family, daughter was translating
per patient preference.  Patient states that pain started on
___ while she was at rest.  Substernal chest pain, has been
intermittent since then.  Worsens with exertion.  At times
relieved by rest, but not reliably.  Radiating down left arm.  
At
times is it accompanied by nausea.  On ___, she also had a 
dry
cough.  She also states that she feels dizzy when going from
sitting to standing.  Has not had any falls or loss of
consciousness.

On review of systems, denies any other concerns including 
fevers,
chills, recent cold, unintentional weight loss, shortness of
breath, hemoptysis, calf pain, lower extremity swelling,
orthopnea, PND, palpitations.  No vomiting, diarrhea, dysuria,
abdominal pain.

At ___, she was admitted for telemetry monitoring, 
serial
troponins were negative and EKGs were unremarkable.  Her pain 
was
relieved with sublingual nitro.  Her flu was negative, her
d-dimer was normal, and her chest x-ray was reported as clear. 
Her white count was slightly low at 3.7.  Her other basic labs
were unremarkable.  Her TSH was low at 0.18, with a normal free
T4 of 0.94

Although she denied this when I spoke with her, she reported
fevers, chills to MD at ___, and in setting of cough, 
she
was treated with ceftriaxone for bronchitis.  She also reported
polyuria, polydipsia, urgency, frequency, mild dysuria while she
was there, which was also covered with ceftriaxone. Urine 
culture
was negative. Her A1c was 13% and her initial glucose was 511. 

Despite treatment for suspected URI, her chest pain did not
resolve, and cardiology at ___ was concerned that she might
need a CABG and requested that she be transferred here for cath. 

In her discharge summary, it states that she was "stabilized on
Plavix" however this is not mentioned in any other notes and was
not listed on her discharge medications.

At ___, several changes were made to her medication list
including discontinuing her Crestor in favor of atorvastatin 80
mg, and increasing her Lopressor to 50 mg every 12 hours (from 
50
mg daily). 

 
Past Medical History:
Coronary artery disease/angina, S/P stenting of the LAD & RCA
Hypertension
Diabetes mellitus
Dyslipidemia
 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death.  Daughter has sickle cell trait. Multiple 
family members with hypertension, DM, hyperlipidemia. Mother had 
uterine cancer.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
VS: ___ 2335 Temp: 98.3 PO BP: 143/84 R Sitting HR: 72 RR:
16 O2 sat: 97% O2 delivery: ra FSBG: 299 
GENERAL: Well developed, well nourished, NAD, laying comfortably
HEENT: sclera anicteric, moist mucous membranes
NECK: JVP of 4 cm
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs,
rubs, or gallops. no thrills or lifts.
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use.  Crackles at right base.
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES: Warm, well perfused. No cyanosis edema.
SKIN: No significant skin lesions or rashes.
NEURO: AOx3, ___ only, CNII-XII intact, ___ 
strength
x4 extremities 

DISCHARGE PHYSICAL EXAM
=======================
24 HR Data (last updated ___ @ 706)
    Temp: 98.0 (Tm 98.6), BP: 116/73 (116-143/73-84), HR: 73
(72-73), RR: 16, O2 sat: 95% (95-99), O2 delivery: Ra, Wt: 
147.05
lb/66.7 kg  
GENERAL: NAD, laying comfortably
HEENT: sclera anicteric, moist mucous membranes
NECK: no JVD noted at 90 degrees.
CARDIAC: Regular rate and rhythm. Normal S1, S2. No murmurs,
rubs, or gallops. no thrills or lifts.
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use.  lungs CTA bilaterally.
ABDOMEN: Soft, non-tender, non-distended. 
EXTREMITIES: Warm, well perfused. No cyanosis edema.
SKIN: No significant skin lesions or rashes.
NEURO: AOx3, ___ only, CNII-XII intact, ___ 
strength
x4 extremities 

 
Pertinent Results:
ADMISSION LABS
==============
___ 12:14AM BLOOD WBC-4.8 RBC-4.51 Hgb-13.2 Hct-38.6 MCV-86 
MCH-29.3 MCHC-34.2 RDW-12.6 RDWSD-38.6 Plt ___
___ 12:14AM BLOOD Neuts-48.4 ___ Monos-10.8 Eos-2.9 
Baso-0.6 Im ___ AbsNeut-2.32 AbsLymp-1.78 AbsMono-0.52 
AbsEos-0.14 AbsBaso-0.03
___ 12:14AM BLOOD ___ PTT-33.5 ___
___ 12:14AM BLOOD Glucose-296* UreaN-16 Creat-0.8 Na-137 
K-4.5 Cl-105 HCO3-23 AnGap-9*
___ 12:14AM BLOOD ALT-22 AST-29 LD(LDH)-189 CK(CPK)-38 
AlkPhos-93 TotBili-0.2
___ 12:14AM BLOOD Albumin-3.8 Calcium-9.5 Phos-3.7 Mg-1.9

DISCHARGE LABS
==============
___ 06:29AM BLOOD WBC-5.4 RBC-4.34 Hgb-12.8 Hct-38.3 MCV-88 
MCH-29.5 MCHC-33.4 RDW-12.6 RDWSD-40.5 Plt ___
___ 06:29AM BLOOD Glucose-150* UreaN-18 Creat-0.7 Na-142 
K-4.3 Cl-109* HCO3-22 AnGap-11
___ 12:14AM BLOOD CK-MB-<1 cTropnT-<0.01

IMAGING
=======
Cardiac Cath ___
• Normal left and right heart filling pressures.
• Three vessel coronary artery disease.
• Three vessel CAD unchanged from before. Negative iFR and IVUS 
of pRCA do not explain rest
symptoms.

TTE ___
Mildly dilated right ventricle with normal global and regional 
biventricular systolic function. Moderate functional tricuspid 
regurgitation. EF 59%

 
Brief Hospital Course:
___ yo F ___ only, patient of Dr. ___, with 
premature 3v CAD (LAD 30% ISR, Cx 40-50% stenosis, ostial RCA 
stent ___ ISR), HTN, HLD, DM2 presenting as transfer from ___ 
___ with chest pain and concern for unstable angina. 

CORONARIES: LAD s/p DES (___) w 30% in-stent restenosis, RCA 
ostial stent w 50% in-stent restenosis, LCX 40-50% ___ 
___ cath)
PUMP: HFpEF (ECHO ___
RHYTHM: sinus 

===============
ACTIVE ISSUES:
===============
# Chest Pain
# CAD s/p stent x2 w known in-stent restenosis 
Cardiac cath was done ___ and showed: Normal left and right 
heart filling pressures. Three vessel coronary artery disease, 
including distal small om occlusion to small for intervention. 
Negative iFR and IVUS of pRCA that did not explain rest 
symptoms. Chest pain was believed to be musculoskeletal vs from 
small distal OM or microvessel disease. She was initiated on 
high dose atorvastatin 80mg daily and her metoprolol was 
switched to metoprolol succinate 50mg daily as titration up of 
antianginal.

# DM
very poorly controlled with an A1c of 13%. She was placed on 
home glargine 33 units before bed and Humalog insulin sliding 
scale while in house. Held home Trulicity as nonformulary

================
CHRONIC ISSUES:
================
# Hypertension - cont home losartan 
# Hyperlipidemia - cont high-dose atorvastatin 
# Depression - cont home citalopram, monitor QTc
# GERD - cont home ranitidine 

===================
TRANSITIONAL ISSUES
===================
# CODE STATUS: full, presumed
# CONTACT: ___, HCP/husband, ___

GREATER THAN 30 MINUTES SPENT ON DC PLANNING

[ ] MEDICATION CHANGES:
-Added: Atorvastatin 80, metoprolol succinate 50
-Stopped: Metoprolol tartrate (replaced with succinate), 
rosuvastatin (replaced with atorvastatin)

[ ] FOLLOW-UP LABS:
-Low TSH noted on admission labs - c/f subclinical 
hypothyroidism. Should be repeated in outpatient setting

[ ] FOLLOW UP WORKUP FOR CHEST PAIN:
-No clear coronary etiology for chest pain was determined. Pt 
would benefit from workup and treatment for likely 
musculoskeletal etiology vs assessment of improvement with high 
intensity statin if microvessel disease

[ ] FOLLOW UP DIZZINESS:
-Pt with intermittent dizziness during hospitalization here, 
orthostatic vital signs negative for volume depletion. Consider 
outpatient workup for causes of same.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB, wheezing 
2. Aspirin 81 mg PO DAILY 
3. Citalopram 40 mg PO DAILY 
4. Glargine 33 Units Bedtime
5. Losartan Potassium 50 mg PO DAILY 
6. Metoprolol Tartrate 50 mg PO BID 
7. Topiramate (Topamax) 50 mg PO BID PRN migraine 
8. Trulicity (dulaglutide) 0 unknown subcutaneous unknown 
9. Ranitidine 150 mg PO BID 
10. Rosuvastatin Calcium 40 mg PO QPM 

 
Discharge Medications:
1.  Atorvastatin 80 mg PO QPM  
2.  Metoprolol Succinate XL 50 mg PO DAILY  
3.  Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB, wheezing  
4.  Aspirin 81 mg PO DAILY  
5.  Citalopram 40 mg PO DAILY  
6.  Glargine 33 Units Bedtime 
7.  Losartan Potassium 50 mg PO DAILY  
8.  Ranitidine 150 mg PO BID  
9.  Topiramate (Topamax) 50 mg PO BID PRN migraine  
10.  Trulicity (dulaglutide) 0 unknown subcutaneous Frequency is 
Unknown  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Chest pain with non-obstructive coronary artery disease

SECONDARY DIAGNOSES:
History of hypertension
Diabetes mellitus, poorly controlled

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. 

WHY WAS I ADMITTED TO THE HOSPITAL?
- You were admitted to the hospital because you were having 
chest pain

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You had a cardiac catheterization to look at the blood vessels 
in your heart
- There were no blockages to explain your chest pain

WHAT SHOULD I DO WHEN I GO HOME?
- You should continue to take your medications as prescribed. 
- You should attend the appointments listed below. 
- Weigh yourself every morning, call your doctor at 
___ if your weight goes up more than 3 lbs.  
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, abdominal distention, or 
shortness of breath at night.  
- Your discharge weight: 145 lbs. You should use this as your 
baseline after you leave the hospital.  

We wish you the best!
Your ___ Care Team 
 
Followup Instructions:
___